US04224449
1,3-Diphenyl-5-(3-Trichloromethyl-1,2,4-thiadiazol-5-yl)biuret
A glass pressure vessel was charged with 5.5 grams (0.03 mole) 5-amino-3-trichloromethyl-1,2,4-thiadiazole, 7.4 grams (0.06 mole) phenyl isocyanate and 50 milliliters benzene. A magnetic stirring bar was added and the vessel sealed. The stirred reaction mixture was heated at 145° C. for 1.5 hours and then allowed to cool to room temperature where a urea by-product precipitates. The by-product was removed by filtration and the filtrate concentrated in vacuo to leave 9.0 grams of crude product. Trituration with cold methanol gave 2.8 grams (24% yield) of pure product; m.p. 170° C.

reactant | 5-amino-3-trichloromethyl-1,2,4-thiadiazole | 0.03 mole, 5.5 grams | NC1=NC(=NS1)C(Cl)(Cl)Cl | C3H2Cl3N3S
reactant | phenyl isocyanate | 0.06 mole, 7.4 grams | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
reactant | urea | NC(=O)N | CH4N2O
solvent | methanol | CO | CH4O
product | 1,3-Diphenyl-5-(3-Trichloromethyl-1,2,4-thiadiazol-5-yl)biuret | 2.8 grams, 24% yield | C1(=CC=CC=C1)NC(=O)N(C(=O)NC1=NC(=NS1)C(Cl)(Cl)Cl)C1=CC=CC=C1 | C17H12Cl3N5O2S
